Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right thyroid nodule.

 
Major Surgical or Invasive Procedure:
Right hemithyroidectomy, intraoperative nerve monitoring.

 
History of Present Illness:
The patient is a ___ man who presents with a relatively 
large right-sided thyroid nodule measuring approximately 4.1 cm 
in diameter.  An ultrasound has revealed a hypervascular solid 
nodule. Ultrasound-guided fine-needle aspiration biopsy has been 
nondiagnostic on 2 occasions.  Because of the large size of the 
nodule, however, the patient has opted for a right 
hemithyroidectomy, mainly for diagnostic purposes to rule out 
malignancy.  Risks and benefits associated with the procedure 
have been discussed in great detail, and the consent form has 
been signed.

 
Past Medical History:
Previous Medical History:  The patient was previously mainly
healthy.  He does not take any medication on a chronic basis.

Previous Surgical History:Tonsillectomy in childhood.Tongue
surgery many years ago when the initial suspicion was for 
malignancy; however, according to the patient, reevaluation 
later on did not confirm malignancy of the tongue lesion that 
was removed at that time.
 
Social History:
___
Family History:
The patient's daughter has had thyroid surgery,but the patient 
does not believe that his daughter had thyroid cancer.  No other 
family history of thyroid cancer or endocrine disorders.

 
Physical Exam:
VS:98.4 89 113/56 18 97%RA
GEN: A&O, no distress
HEENT: No scleral icterus, mucus membranes moist
Incision clean, dry and intact. No discharge
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: soft, nondistended, nontender
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 01:10PM BLOOD Glucose-121* UreaN-17 Creat-1.0 Na-136 
K-4.1 Cl-102 HCO3-29 AnGap-9
___ 07:24AM BLOOD CK(CPK)-128
___ 09:15PM BLOOD CK(CPK)-146
___ 07:24AM BLOOD CK-MB-<1
___ 09:15PM BLOOD CK-MB-1
___ 01:10PM BLOOD CK-MB-1 cTropnT-<0.01
___ 01:10PM BLOOD Calcium-8.8 Phos-3.2 Mg-1.9
 
Brief Hospital Course:
The patient is a ___ man who presents with a relatively 
large right-sided thyroid nodule measuring approximately 4.1 cm 
in diameter.  The patient presented to ___ on ___ and 
underwent right hemithyroidectomy. Of note, In OR prior to start 
of case pt with episode of profound bradycardia and hypotension. 
Once patient was stabilized by anesthesia team, procedure was 
performed as planned. The patient tolerated the procedure 
well;reader is referred to operative report for details of 
surgery. Postoperatively, the patient was evaluated by 
cardiology and it was felt that his episode of bradycardia and 
hypotension was likely vasovagal episode. Patient was admitted 
overnight to the floor on telemetry and was hemodynamically 
stable. EKG, and troponins were negative. The patient was 
advised to follow-up with PCP for further workup. 
Postoperatively the patient was able to void, tolerate regular 
diet, ambulate, and achieve adequate pain control on oral 
medications. His surgical site remained dry and intact and 
without evidence of hematoma or drainage. Once he met the 
appropriate criteria he was discharged home on POD 1 with 
scheduled follow up with Dr. ___ postoperative care. 
The patient was given instructions on wound care as well as 
symptoms of complications to look out for, of which he expressed 
understanding.
 
Medications on Admission:
___: vit D
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN Sore throat 
3. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right thyroid nodule.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ inpatient general surgery unit 
overnight for observation after your surgery. You have adequate 
pain control and have tolerated a regular diet and may return 
home to continue your recovery. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softener such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.
Thank you for allowing us to participate in your care.
Your ___ Care Team
 
Followup Instructions:
___